US07163937B2
Synthesis of 1-((1S,2R,4R)-2-(1-hydroxypropyl)-4-(isopropyl(methyl)amino)cyclohexyl)-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-2-one
A solution of (S)-3-amino-1-((1S,2R,4R)-2-(1-hydroxypropyl)-4-(isopropyl(methyl)amino)cyclohexyl)pyrrolidin-2-one (47.6 mg, 0.153 mmol) in EtOH (3 mL) was charged with 4-chloro-6-(trifluoromethyl)quinazoline (46.3 mg, 0.2 mmol) and triethylamine (0.064 mL, 0.46 mmol). The mixture was heated for 30 min at 100° C. in the microwave oven. Solvent was evaporated off, and the residue was purified by flash chromatography on silica gel with elution by 0.8:7.2:92 cNH4OH-MeOH—CH2Cl2 to afford the titled compound 1-((1S,2R,4R)-2-(1-hydroxypropyl)-4-(isopropyl(methyl)amino)cyclohexyl)-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-2-one (47.3 mg) as a solid. MS found: (M+H)+=508.3

reactant | (S)-3-amino-1-((1S,2R,4R)-2-(1-hydroxypropyl)-4-(isopropyl(methyl)amino)cyclohexyl)pyrrolidin-2-one | 0.153 mmol, 47.6 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)C(CC)O)=O | C17H33N3O2
reactant | 4-chloro-6-(trifluoromethyl)quinazoline | 0.2 mmol, 46.3 mg | ClC1=NC=NC2=CC=C(C=C12)C(F)(F)F | C9H4ClF3N2
reactant | triethylamine | 0.46 mmol, 0.064 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 3 mL | CCO | C2H6O
product | 1-((1S,2R,4R)-2-(1-hydroxypropyl)-4-(isopropyl(methyl)amino)cyclohexyl)-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-2-one | 47.3 mg | OC(CC)[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)N1C(C(CC1)NC1=NC=NC2=CC=C(C=C12)C(F)(F)F)=O | C26H36F3N5O2
